US07465836B2
3-(6-Fluorobenzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile (21)
This was prepared as per the procedure in Example 11, from 2-(3-cyanophenyl)-[1,3,2]-dioxaborolane and 1-bromo-5-fluoro-2-((methoxymethoxy)methyl)benzene to afford white crystalline product.

reactant | 2-(3-cyanophenyl)-[1,3,2]-dioxaborolane | C(#N)C=1C=C(C=CC1)B1OCCO1 | C9H8BNO2
reactant | 1-bromo-5-fluoro-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=CC(=C1)F)COCOC | C9H10BrFO2
product | 3-(6-Fluorobenzo[c][1,2]oxaborol-1(3H)-yl)benzonitrile | FC=1C=CC2=C(B(OC2)C=2C=C(C#N)C=CC2)C1 | C14H9BFNO
